US07368461B2
1a. (S)-[2-(3,4-Dichloro-phenyl)-4-hydroxy-butyl]-methyl-carbamic acid tert-butyl ester
To a solution of 3-(3,4-dichloro-phenyl)-4-methylamino-butan-1-ol (25.0 g) in dichloromethane (125 mL) was added di-tert-butyl dicarbonate dropwise as a solution in dichloromethane (125 mL). After stirring for 3 hours, the reaction mixture was washed with dilute hydrochloric acid, dilute sodium bicarbonate, dried, and evaporated. A resulting oil was chromatographed eluting with dichloromethane:ether (2:1).

reactant | 3-(3,4-dichloro-phenyl)-4-methylamino-butan-1-ol | 25.0 g | ClC=1C=C(C=CC1Cl)C(CCO)CNC | C11H15Cl2NO
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | (S)-[2-(3,4-Dichloro-phenyl)-4-hydroxy-butyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C[C@@H](CCO)C1=CC(=C(C=C1)Cl)Cl)=O | C16H23Cl2NO3
